US05624950
By working as in Example 33, but starting with 2.5 g of (3aS,4S,6R,7aR)-4-(2-fluorophenyl)-6-methyl-4-perhydroisoindolol and 2.17 g of 2-(S)-(2-methoxyphenyl)propionic acid, and after purification on a column of silica gel (particle size 0.04-0.06 mm, diameter 4 cm, height 25 cm), eluting under a pressure of 0.5 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (90/10 by volume), 3.87 g of a solid are obtained, which solid is recrystallized in acetonitrile to give 2 g of (3aS,4S,6R,7aR)-4-(2-fluorophenyl)-2-[2-(S)-(2-methoxyphenyl) propionyl]-6- methyl-4-perhydroisoindolol, in the form of a white solid melting at 170° C.

reactant | (3aS,4S,6R,7aR)-4-(2-fluorophenyl)-6-methyl-4-perhydroisoindolol | 2.5 g | FC1=C(C=CC=C1)[C@]1([C@@H]2CNC[C@@H]2C[C@H](C1)C)O | C15H20FNO
reactant | 2-(S)-(2-methoxyphenyl)propionic acid | 2.17 g | COC1=C(C=CC=C1)[C@@H](C(=O)O)C | C10H12O3
product | (3aS,4S,6R,7aR)-4-(2-fluorophenyl)-2-[2-(S)-(2-methoxyphenyl) propionyl]-6- methyl-4-perhydroisoindolol | 2 g | FC1=C(C=CC=C1)[C@]1([C@@H]2CN(C[C@@H]2C[C@H](C1)C)C([C@@H](C)C1=C(C=CC=C1)OC)=O)O | C25H30FNO3
